US07884101B2
Preparation of N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]4-trifluoromethyl-benzamide (Compound 343)
A mixture of 3-(2-Methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (57 mg, 0.2 mmol), 4-trifluoromethyl-benzoic acid (42 mg, 0.22 mmol), HATU (91 mg, 0.24 mmol) and triethylamine (0.3 mL) in DMF (2 mL) was heated in microwave at 100° C. for 15 min. The crude was purified by HPLC to give the title compound (65 mg, 71%) as a brown solid as TFA salt. 1H NMR (DMSO-d6, 400 MHz) δ 1.73-1.76 (m, 2H), 1.87-1.92 (m, 2H), 2.85-2.90 (m, 2H), 3.29-3.32 (m, 2H), 3.53-3.57 (m, 2H), 3.69 (s, 3H), 4.32 (t, J=4.80 Hz, 2H), 6.32 (d, J=2.02 Hz, 1H), 7.26 (d, J=8.59 Hz, 1H), 7.50 (d, J=1.78 Hz, 1H), 7.75 (d, J=2.53 Hz, 1H), 7.88-7.94 (m, 3H), 8.15 (d, J=8.84 Hz, 2H), 9.81 (s, 1H), 10.5 (s, 1H). Exact mass calculated for C24H25F3N4O2 458.2. found 459.4 (MH+).

reactant | 3-(2-Methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 0.2 mmol, 57 mg | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCCC1)N | C16H22N4O
reactant | 4-trifluoromethyl-benzoic acid | 0.22 mmol, 42 mg | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | HATU | 0.24 mmol, 91 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]4-trifluoromethyl-benzamide | 65 mg, 71% | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCCC1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C24H25F3N4O2
